US05665718
4.16 g (23.6 mmol) of BOC-glycine were dissolved in 30 ml of N,N-dimethylformamide and treated portionwise with 4.08 g (25.2 mmol) of 1,1'-carbonyldiimidazole. After completion of the CO2 evolution the solution was stirred at 50° for 20 min. Then, 7.36 g (22.2 mmol) of (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamidoxime were added and the mixture was stirred at 90° overnight. The reaction mixture was evaporated, the residue was dissolved in methylene chloride and the solution was washed once with water and once with saturated sodium bicarbonate solution. After drying and concentrating there were obtained 7.75 g (74%) of (S)-1-(5-BOC-aminomethyl-1,2,4-oxadiazol-3-yl)-8-chloro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one, which was used in the next step without further purification.

reactant | BOC-glycine | 23.6 mmol, 4.16 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 1,1'-carbonyldiimidazole | 25.2 mmol, 4.08 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxamidoxime | 22.2 mmol, 7.36 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(N)=NO)CCC1)=O | C15H14ClN5O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-1-(5-BOC-aminomethyl-1,2,4-oxadiazol-3-yl)-8-chloro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 7.75 g, 74% | C(=O)(OC(C)(C)C)C1=NC(N(O1)CN)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3Cl)=O)CCC1 | C22H25ClN6O4
